data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_170188_0,[C:1](/[C:6](=[C:2]([N:3]([H:9])[H:10])\[C:5](=[C:4](/[O:7][H:8])[H:11])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:2]([N:3]([H:9])[H:10])=[C:5]([H:12])[C:4]1([O:7][H:8])[H:11])([H:14])([H:15])[H:16],49.79589000001155
MR_237145_1,[C:1](\[C:2]([C:5]([N:7]([H:9])[H:13])([H:8])[H:14])=[C:6]([H:15])[H:16])(=[N:3]/[H:10])[N:4]([H:11])[H:12]>>[C:1]([C:2](/[C:5](=[N:7]/[H:13])[H:14])=[C:6]([H:15])[H:16])([N:3]([H:9])[H:10])([N:4]([H:11])[H:12])[H:8],68.60394749996587
MR_311091_1,[C:1]([C:2](/[C:6](=[N:8]/[H:13])[H:16])([H:14])[H:15])(/[C:4]([C:3]([H:17])([H:18])[H:19])=[N:7]\[H:12])([N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([C:6](/[C:4]([C:3]([H:17])([H:18])[H:19])=[N:7]\[H:12])([N:8]([H:11])[H:13])[H:16])([H:14])[H:15])(=[N:5]/[H:10])[H:9],63.70756499998649
MR_432634_1,[C:1]([C:5](/[C:4]([N:7]([H:11])[H:12])=[C:8](/[O:9][H:10])[H:13])[C:6]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16]>>[C:1]([C:5]1=[C:4]([N:7]([H:11])[H:12])[C@@:8]([O:9][H:10])([H:13])[C:6]1([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])([H:14])([H:15])[H:16],30.552974999978066
MR_290744_1,[N:1]1([H:11])[C:2](/[C:3](=[N:5]/[H:15])[N:6]([H:16])[H:17])([N:4]([H:12])[H:13])[C:8]1([C:7]([O:9][H:10])([H:14])[H:18])[H:19]>>[N:1]([C:2](=[C:3]([N:5]([H:14])[H:15])[N:6]([H:16])[H:17])[N:4]([H:12])[H:13])(/[C:8](=[C:7](\[O:9][H:10])[H:18])[H:19])[H:11],45.79620499997972
MR_350433_2,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:6]([C:2]([C:5]([H:21])([H:22])[H:23])([N:8]([H:13])[H:14])[H:10])=[O:9])[N:7]([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:21])([H:22])[H:23])([N:8]([H:13])[H:14])[H:10])([C:3]([H:15])([H:16])[H:17])([C:6]([C:4]([H:18])([H:19])[H:20])=[O:9])[N:7]([H:11])[H:12],40.42480499998689
MR_214264_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:9])([N:4]([H:7])[H:8])([H:10])[H:11]>>[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[N:4]([H:7])[H:8])([C:5](=[O:6])[H:9])([H:10])[H:11],62.641442500003
MR_241349_0,[C:1]([N:2]([C:3]([O:5][H:7])=[O:6])[H:8])([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1]([N:4]([H:9])[H:10])([O:6]/[C:3](=[N:2]\[H:8])[O:5][H:7])([H:11])[H:12],51.37781749997686
MR_210456_0,[C:1]([C:2]([C:3]([O:6][H:9])=[O:8])([N:5]([H:15])[H:16])[H:12])([N:4]([H:13])[H:14])([O:7][H:10])[H:11]>>[C:1](\[C:2]([C:3]([O:6][H:9])([O:8][H:13])[H:11])([N:5]([H:15])[H:16])[H:12])(=[N:4]/[H:14])[O:7][H:10],70.91189249998862
MR_23810_0,[C:1]([C:5]([N:4]([N:3]([C:6]([C:2]([H:13])([H:14])[H:16])=[O:8])[H:9])[H:10])=[O:7])([H:11])([H:12])[H:15]>>[C:1]([C:5](=[O:7])[O:8][C:6]1([C:2]([H:13])([H:14])[H:16])[N:3]([H:9])[N:4]1[H:10])([H:11])([H:12])[H:15],71.79792249999878
MR_593731_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:8])[C:5]2([H:11])[C:6]1([H:12])[C:3]([N:4]([H:9])[H:10])=[N:7]2>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:8])[C:5]([H:11])=[N:7][C:3]([N:4]([H:9])[H:10])=[C:6]1[H:12],22.646475000000947
MR_337316_2,[N:1](/[C:2]([N:3]([H:10])[H:11])=[C:5](/[N:4]([H:12])[H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[O:8][H:9]>>[N:1](=[C:2](/[N:3]([H:10])[H:11])[C:5]([N:4]([H:12])[H:13])([C:6](=[C:7]([H:16])[H:17])[H:15])[H:14])\[O:8][H:9],65.8473400000058
MR_656927_0,[C@:1]1([O:7][H:8])([H:9])[C@@:2]([O:5][N:4]([H:11])[H:12])([H:10])[C:3]([H:13])([H:14])[O:6]1>>[C@:1]([C@:2]1([H:10])[C:3]([H:13])([H:14])[O:6]1)([O:5][N:4]([H:11])[H:12])([O:7][H:8])[H:9],60.59202750000523
MR_660696_2,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])([N:4]([N:6]([H:10])[H:11])[O:7][N:5]([H:8])[H:9])([H:12])[H:13]>>[C:1]([N:4]([C:2]([C:3]([H:16])([H:17])[H:18])([H:14])[H:15])[N:6]([H:10])[H:11])([O:7][N:5]([H:8])[H:9])([H:12])[H:13],68.21489749998506
MR_475330_1,[C:1]1([C:5]([N:4]([C:3]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])=[C:7]([H:17])[H:18])([H:9])[C:2]([H:12])([H:13])[O:8]1>>[C:1]1([C:5]([N:4]([C:3]([H:14])([H:15])[H:16])[N:6]([H:10])[H:11])=[C:7]([H:17])[H:18])([H:9])[C:2]([H:12])([H:13])[O:8]1,55.38440499999126
MR_123656_0,[C:1](/[C:5]([C:4](=[C:6]([C:2]([H:15])([H:16])[H:20])[C:3]([H:17])([H:18])[H:19])[N:7]([H:9])[H:10])=[N:8]\[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1=[C:4]([N:7]([H:9])[H:10])[C:6]([C:2]([H:15])([H:16])[H:20])([C:3]([H:17])([H:18])[H:19])[N:8]1[H:11])([H:12])([H:13])[H:14],45.61862249996437
MR_525643_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3](/[C:5](=[N:6]\[H:10])[H:12])=[O:7])([C:4](=[O:8])[H:11])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3]([C:5](=[N:6]\[H:10])/[H:12])\[O:7][C:4](=[O:8])[H:11])[H:9],47.94288249998161
MR_29584_1,[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:4]([N:5]([H:10])[H:11])=[C:7](/[N:6]([H:12])[H:13])[H:14])[O:8][H:9]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])=[C:4]([N:5]([H:10])[H:11])[C@@:7]([N:6]([H:12])[H:13])([O:8][H:9])[H:14],46.35781749998856
MR_477317_2,[C:1](=[C:5]([C:4]1([H:11])[C:3]([N:7]([N:2]([H:8])[H:9])[H:13])([H:10])[O:6]1)[H:12])([H:14])[H:15]>>[C:1](/[C:5](=[C:4](/[O:6]/[C:3](=[N:7]\[N:2]([H:8])[H:9])[H:10])[H:11])[H:12])([H:13])([H:14])[H:15],48.07904999999451
